US05258478
7.6 gms (0.312 moles) of Mg tunings were transferred to an RB flask containing 50 ml of dry THF under nitrogen atmosphere. 2 ml of ethyl bromide was then added to the Mg metal and the reaction mixture was warmed to 50°-55° C. The mixture reacted vigorously and activated Mg metal was formed. A solution of 20 ml (0.156 moles) of 4-chlorostyrene in 50 ml of THF was added dropwise at room temperature to the activated Mg. The reaction mixture was stirred for an additional two hours. A dark gray solution appeared and was allowed to settle down. In a separate IL RB flask, a solution of 12 ml (0.15 moles) of anhydrous DMF was prepared in 300 ml of THF. The DMF solution was cooled in an icebath under dry nitrogen atmosphere for 15 mins. Grignard reagent was added dropwise to the DMF solution over a period of 1 hr with vigorous stirring. The reaction flask was then allowed to stir for three hrs. at 5° C. and RT overnight. The reaction was quenched by pouring the entire reaction mixture into 300 ml of dilute HCl in an icebath. The product was separated by solvent extraction with ether. The ether layer was dried over anhyd. MgSO4 and filtered. Finally, ether was evaporated under reduced pressure. A viscous yellow liquid was obtained and was dried under vacuum for 2 hrs and stored in a freezer at -10° C. containing a small amount of hydroquinone as an inhibitor. A yield of 65% high purity (above 95%) 4-vinyl benzaldehyde was obtained.

reactant | ethyl bromide | 2 ml | C(C)Br | C2H5Br
reactant | 4-chlorostyrene | 0.156 moles, 20 ml | ClC1=CC=C(C=C)C=C1 | C8H7Cl
reactant | DMF | 0.15 moles, 12 ml | CN(C)C=O | C3H7NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-vinyl benzaldehyde | above 95% | C(=C)C1=CC=C(C=O)C=C1 | C9H8O
